US07932271B2
3-Bromo-1-[3-(t-butyldimethylsilyloxy)propyl]piperidin-2-one
Under an argon atmosphere, t-butyl lithium (a 1.50M pentane solution, 1.40 ml, 2.10 mmol) was added dropwise to a tetrahydrofuran solution (5 ml) of 1-[3-(t-butyldimethylsilyloxy)propyl]piperidin-2-one (542 mg, 2.00 mmol) at −78° C. The reaction mixture was stirred at −78° C. for 15 minutes. After a tetrahydrofuran solution (5 ml) of tetrabutylammonium tribromide (1.16 g, 2.40 mmol) was added to the reaction mixture, the temperature of the resulting mixture was gradually raised to −40° C. under stirring. Water was added to the reaction mixture at −40° C. and then, the temperature of the mixture was raised to room temperature. The reaction mixture was extracted with ethyl acetate. The extract was washed with water and brine, dried over magnesium sulfate and concentrated. The residue thus obtained was subjected to flash silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate=2:3 eluate was concentrated to give the title compound (72.8 mg, 0.208 mmol, 10%) as a colorless oil.

reactant | t-butyl lithium | C(C)(C)(C)[Li]
reactant | pentane | 1.50M | CCCCC | C5H12
reactant | 1-[3-(t-butyldimethylsilyloxy)propyl]piperidin-2-one | 2.00 mmol, 542 mg | [Si](C)(C)(C(C)(C)C)OCCCN1C(CCCC1)=O | C14H29NO2Si
reactant | tetrabutylammonium tribromide | 2.40 mmol, 1.16 g | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | hexane | CCCCCC | C6H14
solvent | Water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-Bromo-1-[3-(t-butyldimethylsilyloxy)propyl]piperidin-2-one | 0.208 mmol, 72.8 mg, 10% | BrC1C(N(CCC1)CCCO[Si](C)(C)C(C)(C)C)=O | C14H28BrNO2Si
